US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 3′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4-fluoro-2′-methylbiphenyl-2-carbonitrile as described in Example 65 to give 4-fluoro-2′-methyl-3′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as a white solid: δH (360 MHz, CDCl3) 1.94 (3H, s), 7.26 (1H, d, J 7), 7.40-7.51 (6H, m), 8.08 (1H, s), 8.35 (1H, d, J 7); m/z (ES+) 397 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 3′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-4-fluoro-2′-methylbiphenyl-2-carbonitrile | CC1(COB(OC1)C=1C(=C(C=CC1)C=1C(=CC(=CC1)F)C#N)C)C | C19H19BFNO2
product | 4-fluoro-2′-methyl-3′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=C(C(=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C)C#N | C21H12F4N4
